US04107201
A mixture of 10.0 g of 3,5-dinitroaniline, 1.0 g of 10% palladium on carbon catalyst and 100 ml of ethyl acetate is hydrogenated in a Parr shaker for 1 hour at room temperature. The mixture is warmed and decanted. The insoluble material in the flask is dissolved in 100 ml of hot acetonitrile and is filtered through diatomaceous earth. The filtrate is evaporated to a small volume and is crystallized from ethyl acetate to give 4.45 g of 1,3,5-benzenetriamine as a tan powder.

reactant | 3,5-dinitroaniline | 10.0 g | [N+](=O)([O-])C=1C=C(N)C=C(C1)[N+](=O)[O-] | C6H5N3O4
catalyst | palladium on carbon | 1.0 g | [Pd] | Pd
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 1,3,5-benzenetriamine | 4.45 g | C1(=CC(=CC(=C1)N)N)N | C6H9N3
